US07598393B2
Step A. 1-({[4-(Methylsulfonyl)-2-nitrophenyl]amino}methyl)cyclopentanol
The title compound was prepared according to the procedure described in Step A of Example 5 from 1-fluoro-4-(methylsulfonyl)-2-nitrobenzene (Acros Organics) and 1-(aminomethyl)cyclopentanol hydrochloride (J. Med. Chem. 1981, 24, 7-12).

reactant | 1-fluoro-4-(methylsulfonyl)-2-nitrobenzene | FC1=C(C=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C7H6FNO4S
reactant | 1-(aminomethyl)cyclopentanol hydrochloride | Cl.NCC1(CCCC1)O
product | 1-({[4-(Methylsulfonyl)-2-nitrophenyl]amino}methyl)cyclopentanol | CS(=O)(=O)C1=CC(=C(C=C1)NCC1(CCCC1)O)[N+](=O)[O-] | C13H18N2O5S
